US08017630B2
2-(4-Dimethylamino-4-pyridin-2-ylcyclohexyl)-N-[2-(1H-indol-3-yl)-ethyl]acetamide
1-Hydroxybenzotriazole (432 mg, 3.2 mmol), tryptamine (256 mg, 1.6 mmol) and N-methylmorpholine (0.352 ml, 3.2 mmol) were added to a solution of the more polar diastereoisomer of (4-dimethylamino-4-pyridin-2-yl-cyclohexyl)-acetic acid (476 mg, 1.6 mmol) in abs. dimethylformamide (20 ml) under argon. The solution was cooled in an ice-bath, dicyclohexylcarbodiimide (660 mg, 3.2 mmol) was added and the mixture was stirred at RT for 13 d, during which dicyclohexylurea precipitated out. Working up of the mixture was carried out by separating off the urea which had precipitated out and introducing the filtrate into a mixture of saturated NaCl solution (40 ml) and saturated NaHCO3 solution (10 ml). Still further urea thereby precipitated out and was separated off. The aqueous phase was diluted with water (300 ml), 5 M sodium hydroxide solution (7 ml, 35 mmol) was added and the mixture was stored at 5° C. for 16 h. The crude product thereby precipitated out as a beige-coloured oily compound (319 mg, 49%). After purification by chromatography on silica gel (45 g) with methanol and methanol/30 percent strength aqueous ammonia (100:1), the product was obtained as a beige-coloured oil in a yield of 12% (80 mg).

reactant | 1-Hydroxybenzotriazole | 3.2 mmol, 432 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tryptamine | 1.6 mmol, 256 mg | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | N-methylmorpholine | 3.2 mmol, 0.352 ml | CN1CCOCC1 | C5H11NO
reactant | (4-dimethylamino-4-pyridin-2-yl-cyclohexyl)-acetic acid | 1.6 mmol, 476 mg | CN(C1(CCC(CC1)CC(=O)O)C1=NC=CC=C1)C | C15H22N2O2
reactant | dicyclohexylcarbodiimide | 3.2 mmol, 660 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylurea | C(=O)(NC1CCCCC1)NC1CCCCC1 | C13H24N2O
reactant | sodium hydroxide | 35 mmol, 5 M, 7 ml | [OH-].[Na+]
solvent | water | 300 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-(4-Dimethylamino-4-pyridin-2-ylcyclohexyl)-N-[2-(1H-indol-3-yl)-ethyl]acetamide | CN(C1(CCC(CC1)CC(=O)NCCC1=CNC2=CC=CC=C12)C1=NC=CC=C1)C | C25H32N4O
